US05750613
70 g of ethylene glycol monobutyl ether, 70 g of diethylene glycol monoethyl ether and 150 g of the polyether A1) described in example 2 were weighed into a 4 liter reaction vessel equipped with stirring, cooling and heating devices and heated to 155° C. A mixture of 360 g of butyl acrylate, 420 g of methyl methacrylate and 75 g of hydroxyethyl acrylate was then added over a period of 2 hours, while simultaneously adding 25.7 g of di-tert.-butyl peroxide dissolved in 8 g of ethylene glycol monobutyl ether and 8 g of diethylene glycol monoethyl ether to form copolymer A2). Immediately thereafter, a mixture of 139 g of butyl acrylate, 195 g of methyl methacrylate, 82 g of hydroxyethyl acrylate and 34 g of acrylic acid was added over a period of 1 hour, while simultaneously adding 19.3 g of di-tert.-butyl peroxide dissolved in 5.5 g of ethylene glycol monobutyl ether and 5.5 g of diethylene glycol monoethyl ether over a period of 1.5 hours to form copolymer A3). After stirring for a further 2 hours at 150° to 155° C., the temperature was reduced to 100° C., 52.5 g of dimethylethanolamine were added and the mixture dispersed in 1670 g of distilled water. The resulting aqueous binder dispersion A) had a solids content of 44%, an organic solvent content of 4.8%, an acid number of 21 and an OH number of 106.

reactant | butyl acrylate | 139 g | C(C=C)(=O)OCCCC | C7H12O2
reactant | methyl methacrylate | 195 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | hydroxyethyl acrylate | 82 g | C(C=C)(=O)OCCO | C5H8O3
reactant | acrylic acid | 34 g | C(C=C)(=O)O | C3H4O2
reactant | di-tert.-butyl peroxide | 19.3 g | C(C)(C)(C)OOC(C)(C)C | C8H18O2
solvent | ethylene glycol monobutyl ether | 5.5 g | C(CCC)OCCO | C6H14O2
product | diethylene glycol monoethyl ether | 5.5 g | C(C)OCCOCCO | C6H14O3
